US09428452B2
N-(2,4-dimethylphenyl)-4-[(2-hydroxyethyl)oxy]-N-(2-methylpropyl)benzenesulfonamide
To a solution of (2,4-dimethylphenyl)(2-methylpropyl)amine (0.2 g, 1.128 mmol) in pyridine (10 mL) stirred in air at room temperature, was added 2-{[4-(chlorosulfonyl)phenyl]oxy}-ethyl 2-propenoate (0.656 g, 1.128 mmol). The reaction mixture was stirred at 20° C. for 30 minutes to ensure dissolution and then left to stand overnight. The pyridine was evaporated in vacuo (biotage V10) to give a residue. This was partially dissolved in methanol and applied to a pre-conditioned aminopropyl (NH2) solid phase extraction (SPE) cartridge eluting with additional methanol. The methanol fraction was then passed down a sulfonic acid (SCX) SPE cartridge again eluting with methanol. Solvent was evaporated in vacuo and the sample loaded in methanol and purified by reverse phase (C18) chromatography. The appropriate fractions were combined and dried under a stream of nitrogen to give the intermediate product. This was then taken up in tetrahydrofuran (THF) (1 mL) and lithium hydroxide (0.027 g, 1.128 mmol) in water (1 mL) was added. The mixture was stirred for 2 hours and then evaporated under a stream of nitrogen to give a residue. This was partitioned between water and dichloromethane and separated with a hydrophobic frit. The organic solvent was evaporated in vacuo (Biotage v10) to give the deprotected product as a colourless oil, 44.8 mg. LCMS [LCMS1] Rt 1.23 min, m/z (ES+) 378 (M+H).

reactant | (2,4-dimethylphenyl)(2-methylpropyl)amine | 1.128 mmol, 0.2 g | CC1=C(C=CC(=C1)C)NCC(C)C | C12H19N
reactant | 2-{[4-(chlorosulfonyl)phenyl]oxy}-ethyl 2-propenoate | 1.128 mmol, 0.656 g | C(C=C)(=O)OCCOC1=CC=C(C=C1)S(=O)(=O)Cl | C11H11ClO5S
reactant | lithium hydroxide | 1.128 mmol, 0.027 g | [OH-].[Li+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | N-(2,4-dimethylphenyl)-4-[(2-hydroxyethyl)oxy]-N-(2-methylpropyl)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)OCCO)CC(C)C | C20H27NO4S
